US07618961B2
Ethyl [2-({[4-(phenylsulfonyl)-2-thienyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-benzenesulfonylthiophene-2-sulfonyl chloride as described in the synthetic METHOD B to give a yellow solid (29.5 mg) with purity >90%. MS (pos) m/z 473.1.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-benzenesulfonylthiophene-2-sulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)C=1C=C(SC1)S(=O)(=O)Cl | C10H7ClO4S3
product | Ethyl [2-({[4-(phenylsulfonyl)-2-thienyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | C1(=CC=CC=C1)S(=O)(=O)C=1C=C(SC1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC | C17H16N2O6S4
